US08373007B2
To a 6 w/w % acetic acid solution of 2-dimethylaminomethylene-1,3-bis(dimethyliminio)propane dichloride (3.2 mL, 0.75 mmol) was added N-(3-aminophenyl)acetamide (75 mg, 0.5 mmol). The mixture was refluxed at an external bath temperature of 140° C. for 2.5 hours, and the reaction mixture was cooled to room temperature and concentrated under reduced pressure. Water (3.2 mL) was added to the concentrated residue and the resulting mixture was stirred at room temperature for 1 hour. Precipitated crystals were collected by filtration, washed three times with water (1 mL) and dried under reduced pressure to obtain N-(3-formylquinolin-7-yl)acetamide (93 mg, yield: 86.9%) as white crystals.

reactant | 2-dimethylaminomethylene-1,3-bis(dimethyliminio)propane dichloride | 0.75 mmol, 3.2 mL | [Cl-].[Cl-].CN(C)C=C(C=[N+](C)C)C=[N+](C)C
reactant | N-(3-aminophenyl)acetamide | 0.5 mmol, 75 mg | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-(3-formylquinolin-7-yl)acetamide | 93 mg, yield: 86.9% | C(=O)C=1C=NC2=CC(=CC=C2C1)NC(C)=O | C12H10N2O2
